US07071219B2
To a solution of 4.4 g (12.1 mmol) 5-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-thiophene-2-carboxylic acid in 80 ml THF were added 2.2 g (13.6 mmol) carbonyldiimidazol. The reaction mixture was stirred at 45° C. for 1 h and then cooled to rt. After addition of 1.05 g (12 mmol) 2-pentylamine the reaction mixture was kept at rt for 12 h. The solvent was evaporated and the residue was dissolved in 150 ml CH2 Cl2. The solution was washed twice with 150 ml water each and dried over magnesium sulfate. The solvent was evaporated and the residue was washed with diethyl ether to yield (2-{[5-(1-methyl-butylcarbamoyl)-thiophene-2-carbonyl]-amino}-phenyl)-carbamic acid tert-butyl ester as a white solid, mp. 183° C.

reactant | 5-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-thiophene-2-carboxylic acid | 12.1 mmol, 4.4 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)C1=CC=C(S1)C(=O)O | C17H18N2O5S
reactant | carbonyldiimidazol | 13.6 mmol, 2.2 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-pentylamine | 12 mmol, 1.05 g | CC(CCC)N | C5H13N
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | (2-{[5-(1-methyl-butylcarbamoyl)-thiophene-2-carbonyl]-amino}-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(=O)C=1SC(=CC1)C(NC(CCC)C)=O)=O | C22H29N3O4S
